US04000275
2-Chlorobenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 2-chlorobenzimidazole and 5-chloroanthranilic acid.

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 5-chloroanthranilic acid | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
product | 2-Chlorobenzimidazo[2,1-b]quinazolin-12(6H)one | ClC=1C=C2C(N3C(=NC2=CC1)NC1=C3C=CC=C1)=O | C14H8ClN3O
